US07642277B2
b) 5-{{3-(2-Chlorophenyl)-2-hydroxypropyl}thio}-1-(1-naphthalenyl)-1H-tetrazole
A solution of 1,2-dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione (50.0 mg, 0.22 mmol), 2-chloro-1-(2,3-epoxypropyl)benzene (36.9 mg, 0.22 mmol) and Et3N (0.15 mL, 1.10 mmol) in MeOH (5 mL) was heated at reflux for 2 h. The mixture was concentrated under reduced pressure and the residue was purified by HPLC using a gradient of MeCN/H2O containing TFA (0.1%) (CombiPrep ODS-AQ 50×20 mm, 5μ, 120 Å). The pure fractions were concentrated to give the title compound (12 mg, 14% yield) as a colorless solid.

reactant | 1,2-dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione | 0.22 mmol, 50.0 mg | C1(=CC=CC2=CC=CC=C12)N1NN=NC1=S | C11H8N4S
reactant | 2-chloro-1-(2,3-epoxypropyl)benzene | 0.22 mmol, 36.9 mg | ClC1=C(C=CC=C1)CC1CO1 | C9H9ClO
reactant | Et3N | 1.10 mmol, 0.15 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 5 mL | CO | CH4O
product | 5-{{3-(2-Chlorophenyl)-2-hydroxypropyl}thio}-1-(1-naphthalenyl)-1H-tetrazole | 12 mg, 14% yield | ClC1=C(C=CC=C1)CC(CSC1=NN=NN1C1=CC=CC2=CC=CC=C12)O | C20H17ClN4OS
